US07235581B2
c) (RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid
The title compound is prepared in analogy to Example 3c) from 4-(4-fluoro-benzyloxy)-phenylamine and 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione. Yield: 56% of a colorless solid. MS: m/e=284.1 (M−CO2).

reactant | 4-(4-fluoro-benzyloxy)-phenylamine | FC1=CC=C(COC2=CC=C(C=C2)N)C=C1 | C13H12FNO
reactant | 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione | CC1(OC(C2(CC2)C(O1)=O)=O)C | C8H10O4
product | (RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid | FC1=CC=C(COC2=CC=C(C=C2)N2C(C(CC2)C(=O)O)=O)C=C1 | C18H16FNO4
